US06254724B1
1-Hydroxy-2,2,6,6-tetramethyl-4-hydroxypiperidinium Chloride
67 mL of isopropanol is cooled to 0° C. and saturated with HCl gas. This solution is added dropwise to a mechanically stirred solution of 50 g (0.29 mol) 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine in 130 mL of isopropanol, maintaining a reaction temperature of about 20° C. by occasionally cooling with an ice bath. The HCl salt is vacuum filtered and washed with isopropanol, giving a pale yellow solid. 5.0 g of this crude product is recrystallized from 100 mL isopropanol affording 3 g of a white crystalline solid, mp>260° C.

reactant | HCl | Cl | ClH
reactant | 1-oxyl-2,2,6,6-tetramethyl-4-hydroxypiperidine | 0.29 mol, 50 g | ON1C(CC(CC1(C)C)O)(C)C | C9H19NO2
solvent | isopropanol | 130 mL | C(C)(C)O | C3H8O
solvent | isopropanol | 67 mL | C(C)(C)O | C3H8O
product | 1-Hydroxy-2,2,6,6-tetramethyl-4-hydroxypiperidinium Chloride | [Cl-].O[NH+]1C(CC(CC1(C)C)O)(C)C | InChI=1S/C9H19NO2.ClH/c1-8(2)5-7(11)6-9(3,4)10(8)12;/h7,11-12H,5-6H2,1-4H3;1H
